US04518774
Trimethylsilylacetamide (6.57 g.) was added to a suspension of 7-amino-3-(benzothiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (3.8 g.) in ethyl acetate (80 ml.), and stirred at room temperature for an hour. On the other hand, thionyl chloride (1.5 g.) was added to a stirred solution of N,N-dimethylformamide (0.92 g.) in ethyl acetate (10 ml.), and stirred under ice-cooling for 30 minutes. To the solution was added 2-methoxyimino-3,3-ethylenedioxybutyric acid (syn isomer, 2.27 g.) and stirred at 5° to 10° C. for 2 hours. Thus obtained activated acid solution was added to the above solution at -30° C. over 45 minutes, and stirred at the same temperature for 2 hours. The resultant mixture was diluted with water (100 ml.) and stirred for 10 minutes. After removing the insoluble substance from the resultant mixture by filtration, the filtrate was extracted with a mixture solvent (200 ml.) of ethyl acetate and methanol (4:1) twice. The insoluble substance obtained above was suspended in the mixed solvent (200 ml.) of ethyl acetate and methanol (4:1), stirred for 30 minutes, and filtered. The filtrate and the above extract were combined, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. Diisopropyl ether was added to the residue and allowed to stand in a refrigerator. After removing the solvent by decantation, the residue was triturated with n-hexane to give 7-[2-methoxyimino-3,3-ethylenedioxybutyramido]-3-(benzothiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.7 g.).

reactant | Trimethylsilylacetamide | 6.57 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 7-amino-3-(benzothiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.8 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC3=C(N2)C=CC=C3)C(=O)O)C1=O | C15H13N3O3S3
reactant | thionyl chloride | 1.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxyimino-3,3-ethylenedioxybutyric acid | 2.27 g | CON=C(C(=O)O)C1(C)OCCO1 | C7H11NO5
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | N,N-dimethylformamide | 0.92 g | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-3,3-ethylenedioxybutyramido]-3-(benzothiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.7 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC3=C(N2)C=CC=C3)C(=O)O)C1=O)C1(C)OCCO1 | C22H22N4O7S3
